US04058550
A solution of 7.35 g of 4-(n-hexadecylamino)benzoic acid in 50 ml of hexamethylphosphoramide is treated with 4.80 g of 25% aqueous sodium hydroxide followed by 11.0 g of 3-chloro-1,2-propanediol and then is heated at 140° C for 6 hours. The mixture is diluted with water and ether and filtered to yield a white solid. Recrystallization from acetonitrile and then from carbon tetrachloride affords analytically pure 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate, mp 112°-113° C.

reactant | 4-(n-hexadecylamino)benzoic acid | 7.35 g | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | sodium hydroxide | 4.80 g | [OH-].[Na+]
reactant | 3-chloro-1,2-propanediol | 11.0 g | ClCC(CO)O | C3H7ClO2
solvent | hexamethylphosphoramide | 50 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
